US07034039B2
(3-(Aminomethyl)-6-bromo-2-isobutyl-4-phenylisoquinolin-1(2H)-one
A mixture of 6-bromo-2-isobutyl-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carbonitrile (16.0 g), sponge cobalt (manufactured by Kawaken Fine Chemicals Co., Ltd.; trademark: ODHT-60) (4 ml), 25% ammonium hydroxide (2 ml) and tetrahydrofuran. (80 ml) was stirred at 60° C. at a 1 MPa hydrogen pressure for 4 h and the catalyst was filtered off. The solvent was evaporated and acetonitrile (48 ml) was added to the residue. The mixture was heated to about 70° C. The obtained solution was cooled to 25° C. to give crystals, and water (80 ml) was added dropwise. The obtained mixture was cooled to around 5° C. and the mixture was stirred for 1 h. The precipitated crystals were collected by filtration to give the title compound (14.8 g, yield 91.4%).

reactant | 6-bromo-2-isobutyl-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carbonitrile | 16.0 g | BrC=1C=C2C(=C(N(C(C2=CC1)=O)CC(C)C)C#N)C1=CC=CC=C1 | C20H17BrN2O
reactant | ammonium hydroxide | 2 ml | [OH-].[NH4+]
reactant | hydrogen | [H][H] | H2
catalyst | cobalt | 4 ml | [Co] | Co
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-(Aminomethyl)-6-bromo-2-isobutyl-4-phenylisoquinolin-1(2H)-one | 14.8 g, yield 91.4% | NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC(C)C | C20H21BrN2O
